************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: NAND3
* View Name:     schematic
* Netlisted on:  Feb 11 02:37:00 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    NAND3
* View Name:    schematic
************************************************************************

.SUBCKT NAND3 A B C Y gnd vdd
*.PININFO A:I B:I C:I Y:O gnd:B vdd:B
MM2 Y C vdd vdd PMOS_VTG W=600n L=50n m=1
MM1 Y B vdd vdd PMOS_VTG W=600n L=50n m=1
MM0 Y A vdd vdd PMOS_VTG W=600n L=50n m=1
MM5 net19 C gnd gnd NMOS_VTG W=400n L=50n m=1
MM4 net20 B net19 gnd NMOS_VTG W=400n L=50n m=1
MM3 Y A net20 gnd NMOS_VTG W=400n L=50n m=1
.ENDS

