************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: NOR3
* View Name:     schematic
* Netlisted on:  Feb  2 19:29:55 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    NOR3
* View Name:    schematic
************************************************************************

.SUBCKT NOR3 A B C Y gnd vdd
*.PININFO A:I B:I C:I Y:O gnd:B vdd:B
MM2 Y C gnd gnd NMOS_VTG W=400n L=50n m=1
MM1 Y B gnd gnd NMOS_VTG W=400n L=50n m=1
MM0 Y A gnd gnd NMOS_VTG W=400n L=50n m=1
MM5 net22 A vdd vdd PMOS_VTG W=600n L=50n m=1
MM4 net23 B net22 vdd PMOS_VTG W=600n L=50n m=1
MM3 Y C net23 vdd PMOS_VTG W=600n L=50n m=1
.ENDS

