************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Jan 23 23:41:50 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A GND VDD Y
*.PININFO A:I Y:O GND:B VDD:B
MM0 Y A VDD VDD PMOS_VTG W=600n L=50n m=1
MM1 Y A GND GND NMOS_VTG W=400n L=50n m=1
.ENDS

